US03939159
20 g of sodium hydrosulfite are added portionwise to a solution of 18.18 g (0.09 mole) of 1-(4-methyl-2-nitrophenyl)pyrrole in 400 ml. of tetrahydrofuran and 200 ml. of water. The resulting solution is heated on a steam bath for 5 minutes and an additional 20 g. of sodium hydrosulfite are added and the solution is heated for 5 minutes on a steam bath. Then 38.3 g. of sodium hydrosulfite and a solution of 400 ml. of ethanol and 500 ml. of water are added, and again the solution is heated on a steam bath for 5 minutes. The solvent is removed to give a tan solid which is recrystallized from hexane to give white crystals, m.p. 89°-90° C. of 1-(2-amino-4-methylphenyl)pyrrole.

reactant | sodium hydrosulfite | 20 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-(4-methyl-2-nitrophenyl)pyrrole | 0.09 mole, 18.18 g | CC1=CC(=C(C=C1)N1C=CC=C1)[N+](=O)[O-] | C11H10N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-amino-4-methylphenyl)pyrrole | NC1=C(C=CC(=C1)C)N1C=CC=C1 | C11H12N2
